US06995263B2
d] {6-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester
In analogy to the procedure described in example 5 f], (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (example 6 b]) was reacted with [4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-yl]-methanol in the presence of tributylphosphine and N,N,N′,N′-tetramethyl azodicarboxamide to yield the title compound as yellow solid.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | [4-(2-methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-yl]-methanol | COCCC1=NC(=NC=C1CO)C=1C=NC(=CC1)C(F)(F)F | C14H14F3N3O2
reactant | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
product | {6-[4-(2-Methoxy-ethyl)-2-(6-trifluoromethyl-pyridin-3-yl)-pyrimidin-5-ylmethoxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=C(C=C12)OCC=1C(=NC(=NC1)C=1C=NC(=CC1)C(F)(F)F)CCOC)=O | C26H25F3N4O4
